US07777038B2
5-Methoxy-3,4-dihydro-1H-quinolin-2-one (5.00 g, 26 mmol) was dissolved in dichloromethane (100 ml), and dichloromethyl methyl ether (7.65 ml, 85 mmol) was added at 0° C. Titanium tetrachloride (12.4 ml, 113 mmol) was added dropwise at a temperature not higher than 10° C. Stirring was carried out at room temperature for 2 hours, and the reaction mixture was poured into ice water and separated into layers. The aqueous layer was subjected to extraction with dichloromethane. The organic layers were combined and washed twice with water, washed with a saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved in dichloromethane, diethyl ether was added, and the produced insoluble matter was collected by filtration and dried to thereby obtain 5.32 g (yield: 92%) of 5-methoxy-2-oxo-1,2,3,4-tetrahydroquinoline-8-carboxaldehyde as a light brown powder.

reactant | 5-Methoxy-3,4-dihydro-1H-quinolin-2-one | 26 mmol, 5.00 g | COC1=C2CCC(NC2=CC=C1)=O | C10H11NO2
reactant | dichloromethyl methyl ether | 85 mmol, 7.65 ml | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | Titanium tetrachloride | 113 mmol, 12.4 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-methoxy-2-oxo-1,2,3,4-tetrahydroquinoline-8-carboxaldehyde | 5.32 g, yield: 92% | COC1=C2CCC(NC2=C(C=C1)C=O)=O | C11H11NO3
